US08557872B2
N-(3,5-difluoro-4-methanesulfonylamino-benzyl)-3-(2-propylamino-4-trifluoromethyl-phenyl)-propionamide
N-(3,5-Difluoro-4-methanesulfonylamino-benzyl)-3-(2-propylamino-4-trifluoromethyl-phenyl)-acrylamide (20 mg, 0.041 mmol) was reduced with Pd/C under hydrogen atmosphere to yield title compound (12 mg, 59%).

reactant | N-(3,5-Difluoro-4-methanesulfonylamino-benzyl)-3-(2-propylamino-4-trifluoromethyl-phenyl)-acrylamide | 0.041 mmol, 20 mg | FC=1C=C(CNC(C=CC2=C(C=C(C=C2)C(F)(F)F)NCCC)=O)C=C(C1NS(=O)(=O)C)F | C21H22F5N3O3S
catalyst | Pd/C | [Pd] | Pd
product | N-(3,5-difluoro-4-methanesulfonylamino-benzyl)-3-(2-propylamino-4-trifluoromethyl-phenyl)-propionamide | 12 mg, 59% | FC=1C=C(CNC(CCC2=C(C=C(C=C2)C(F)(F)F)NCCC)=O)C=C(C1NS(=O)(=O)C)F | C21H24F5N3O3S
